US07432255B2
b) Step 2: (3-Chloro-1H-indol-5-yl)-(4-isopropyl-piperazin-1-yl)-methanone
A mixture of 1.05 g (5 mmol) 3-Chloro-1H-indole-5-carboxylic acid methyl ester and 1.05 g (25 mmol) LiOH.H2O in THF, methanol, water was stirred at 50° C. for 4 h. The mixture was evaporated to dryness and the corresponding acid was used without further purification in the subsequent step. 0.77 g (6 mmol) 1-(2-propyl)-piperazine, 2.4g (7.5 mmol) TBTU, 2.5 g (25 mmol) NEt3 and 20 mL DMF was added and the mixture was stirred at room temperature for 4 h. 1N NaHCO3 was added and the mixture was extracted with DCM. The combined organic layers were dried with MgSO4, filtered and evaporated. The residue was purified by flash column chromatography on silica eluting with a gradient formed from heptane, ethyl acetate, methanol and NEt3. The combined product fractions were evaporated to yield 0.67 g (44%) of the title compound as light brown solid. MS(m/e): 306.3 (MH+).

reactant | 3-Chloro-1H-indole-5-carboxylic acid methyl ester | 5 mmol, 1.05 g | COC(=O)C=1C=C2C(=CNC2=CC1)Cl | C10H8ClNO2
reactant | LiOH.H2O | 25 mmol, 1.05 g | O[Li].O
reactant | 1-(2-propyl)-piperazine | 6 mmol, 0.77 g | CC(C)N1CCNCC1 | C7H16N2
reactant | TBTU | 7.5 mmol, 2.4g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NEt3 | 25 mmol, 2.5 g | CCN(CC)CC | C6H15N
reactant | NaHCO3 | 1N | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (3-Chloro-1H-indol-5-yl)-(4-isopropyl-piperazin-1-yl)-methanone | 0.67 g, 44% | ClC1=CNC2=CC=C(C=C12)C(=O)N1CCN(CC1)C(C)C | C16H20ClN3O
